US06440972B1
Ethyl acetate (40 ml) saturated with gaseous HCl was added to a solution of 1-(tert-butoxycarbonyl)-4-[1-(3-fluoro-4-pyridyl)piperidin-4-ylcarbonyl]piperazine (2.60 g) in ethyl acetate (20 ml) and the resulting suspension stirred at ambient temperature for 3 hours. Solvent was evaporated to give 1-[1-(3-fluoro-4-pyridyl)piperidin-4-carbonyl]piperazine hydrochloride (2.45 g) as a solid.

reactant | HCl | Cl | ClH
reactant | 1-(tert-butoxycarbonyl)-4-[1-(3-fluoro-4-pyridyl)piperidin-4-ylcarbonyl]piperazine | 2.60 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C1CCN(CC1)C1=C(C=NC=C1)F | C20H29FN4O3
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | Ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | 1-[1-(3-fluoro-4-pyridyl)piperidin-4-carbonyl]piperazine hydrochloride | 2.45 g | Cl.FC=1C=NC=CC1N1CCC(CC1)C(=O)N1CCNCC1 | InChI=1S/C15H21FN4O.ClH/c16-13-11-18-4-1-14(13)19-7-2-12(3-8-19)15(21)20-9-5-17-6-10-20;/h1,4,11-12,17H,2-3,5-10H2;1H
